US06900210B2
Step E: (S)-1-[3-(Pyridin-2-yloxyl)-phenyl]-ethylamine
A mixture of (S)-{1-[3-(pyridin-2-yloxy)-phenyl]-ethyl}-carbamic acid tert-butyl ester (5 g, 16 mmol), dioxane (80 mL) and HCl (64 mL, 4N) was stirred at 50° C. for 4 h and concentrated in vacuo then CH2Cl2 (100 mL) was added and the reaction mixture was basified with NaOH (5N) followed by extraction with CH2Cl2 (2×100 mL). The organic layer was washed with brine (100 mL), dried over anhydrous magnesium sulfate and filtered, and the filtrate was concentrated to give the title compound (3.39 g, 99% yield).

reactant | (S)-{1-[3-(pyridin-2-yloxy)-phenyl]-ethyl}-carbamic acid tert-butyl ester | 16 mmol, 5 g | C(C)(C)(C)OC(N[C@@H](C)C1=CC(=CC=C1)OC1=NC=CC=C1)=O | C18H22N2O3
reactant | HCl | 4N, 64 mL | Cl | ClH
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | (S)-1-[3-(Pyridin-2-yloxyl)-phenyl]-ethylamine | 3.39 g, 99% yield | N1=C(C=CC=C1)OC=1C=C(C=CC1)[C@H](C)N | C13H14N2O
